US05412117
To a mixture of 23.2 g of 3-hydroxy-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide, 16.6 g of sodium cyanoborohydride, and 200 ml of tetrahydrofuran was added 100 ml of acetic acid with stirring and ice-cooling, followed by stirring for 3 hours under ice-cooling and then at room temperature for 18 hours. To the reaction mixture were further added 5.6 g of sodium cyanoborohydride and 50 ml of methanol, followed by stirring at room temperature for 40 hours. The reaction mixture was distilled under reduced pressure, water was added to the residue, and the mixture was extracted with a mixed solvent of ethyl acetate and diethyl ether. The organic layer was washed with water and dried, and the solvent was removed by distillation to recover 24 g of 3,4-dihydro-3-hydroxy-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide. To the resulting compound were added 51.5 g of p-toluenesulfonyl chloride and 400 ml of pyridine, followed by refluxing for 3 hours. The solvent was removed from the reaction mixture by distillation. Ice-water was added to the residue, and the mixture was made acidic with hydrochloric acid. The thus precipitated crystal was collected by filtration, washed with water, and dried. The crystal was further purified by silica gel column chromatography (developing solution: CH2Cl2 :hexane=7:3) to give 17.9 g of 4-cyano-2,2-dimethyl-6-nitro-2H-1-benzopyran represented by formula shown below.

reactant | 3-hydroxy-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide | 23.2 g | OC=1C(OC2=C(C1C(=O)N)C=C(C=C2)[N+](=O)[O-])(C)C | C12H12N2O5
reactant | sodium cyanoborohydride | 16.6 g | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-cyano-2,2-dimethyl-6-nitro-2H-1-benzopyran | 17.9 g | C(#N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C12H10N2O3
